US04753962
4-Benzyloxy-3-methanesulphonamidophenyl glyoxal
The compound was sbtained as an ethanol hemiacetal, mp 125°-128° (ethanol-water) by the process of Description 54 replacing 1-(4-benzyloxy-3-hydroxymethylphenyl)ethanone by 1-(4-benzyloxy-3-methanesulphonamidophenyl)ethanone. (CDCl3) 8.75 (3H, t, J=6 Hz), 7.05 (3H, s), 5.90-6.40 (2H, m), 4.90 (1H, b), 4.80 (2H, s), 4.46 (1H, s), 2.90 (1H, d, J=8 Hz), 2.60 (5H, s), 2.20 (1H, s), 2.09 (1H, dd, J=8 Hz, 2 Hz), 1.80 (1H, d, J=2 Hz).

reactant | 1-(4-benzyloxy-3-hydroxymethylphenyl)ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)CO | C16H16O3
reactant | 1-(4-benzyloxy-3-methanesulphonamidophenyl)ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)NS(=O)(=O)C | C16H17NO4S
solvent | ethanol water | C(C)O.O
product | 4-Benzyloxy-3-methanesulphonamidophenyl glyoxal | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)C=O)NS(=O)(=O)C | C16H15NO5S
